Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Shortness of Breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
his is a ___ year female w/PMH of asthma and 4 asthma
exacerbations over the past ___ years (intubation required ___ years
ago) presenting with shortness of breath over 3 days. Patient
reports she had rhinorrhea initially and due to change in
weather, she began to feel shortness of breathing and wheezing. 

Her symptoms worsened after a fall and she presented to the 
hospital.
 
Past Medical History:
Past Medical History: 
ADHD diagnosed at age ___ (takes Vyvanse intermittently, last 
dose
2 days prior)
Asthma s/p ICU admissions and multiple hospitalizations, most
recent ___, at ___ 
Hx of GERD
Endometriosis
Non-displaced right patellar fracture (___)
Migraine headaches
Anemia

Past surgical history:
Ovarian cyst removal in ___? per patient
Endometrial ablation ___ LSC (radical laparosocopy) for endometriosis, small
peritoneal biopsy taken neg for endo, finding of "powder burn
lesions" on bilateral ovaries, congested vasculature throughout;
likely endometriosis despite negative biopsy
 
Social History:
___
Family History:
Family history:
No family hx of breast cancer, endometrial ca, ovarian cancer, 
No
family hx of CRC No family hx of sudden death   
 
Physical Exam:
Discharge Physical Exam:
General Appearance: pleasant, comfortable, no acute distress, 
breathing comfortably
Eyes: PERLL, EOMI, no conjuctival injection, anicteric
Pharynx: no erythema, no exudate
Respiratory: CTAB
Cardiovascular: NS1/S2, tachycardic, no murmurs
Gastrointestinal: nd, +b/s, soft, TTP over epigastrium and
RLQ/LLQ, no rebound/guarding noted
___: no edema, +2 DP pulses; Right knee: superficial abrasions
noted over right knee w/minimal bleeding, no swelling/warmth
appreciated over right knee
Skin: warm, no rashes/no jaundice/no skin ulcerations noted
Neurological: Alert, oriented to self, time, date, reason for
hospitalization.  Cn II-XII intact.  ___ strength throughout.
Fluent speech
MSK: ___ strength in ___ 
Psychiatric: pleasant, appropriate affect

 
Pertinent Results:
___ 05:50PM   GLUCOSE-143* UREA N-9 CREAT-0.6 SODIUM-138 
POTASSIUM-3.9 CHLORIDE-105 TOTAL CO2-19* ANION GAP-18
___ 02:00AM   ALT(SGPT)-22 AST(SGOT)-48* LD(LDH)-506* ALK 
PHOS-78 TOT BILI-0.___ year old w/PMH of asthma s/p ICU admission and multiple
hospitalizations, most recent ___ at ___ presenting with
asthma exacerbation. Although she appears improved after 
multiple
nebs, she will require continuation of nebs/steroids and
observation on the medicine service. 

#Asthma: Initially had poor air movement and audible wheezing 
bilaterally. Exam improved steady on nebulizer treatments, 
steroids. She was observed overnight and improved greatly. On 
discharge her exam had normalized and she was breathing 
comfortably. She was discharged on Prednisone 40mg burst for 6 
days, advair, albuterol inhalers. Patient would benefit from 
pulmonary f/u should she stay on the ___ after 
graduation. 

#Abdominal Pain/GERD/Endometreiosis- Patient has chronic 
epigastric abdominal pain. Have prescribed short trial of PPI to 
see if it improves symptoms. Patient will f/u with PCP and 
ob/gyn for further evaluation.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
2. Montelukast 10 mg PO DAILY 
3. Albuterol Inhaler ___ PUFF IH Q6H:PRN asthma 
4. Vyvanse (lisdexamfetamine) 20 mg oral DAILY 

 
Discharge Medications:
1.  Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 
2.  PredniSONE 40 mg PO DAILY 
RX *prednisone 20 mg 2 tablet(s) by mouth daily Disp #*8 Tablet 
Refills:*0 
3.  Albuterol Inhaler ___ PUFF IH Q6H:PRN asthma  
4.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
5.  Montelukast 10 mg PO DAILY  
6.  Vyvanse (lisdexamfetamine) 20 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Asthma Exacerbation 

 
Discharge Condition:
Good
Alert Oriented fully
fully ambulatory 

 
Discharge Instructions:
Dear ___, 

___ were admitted to the hospital with an asthma exacerbation we 
gave ___ inhalers and prednisone and your condition improved. 
When ___ leave the hospital continue your prednisone as 
instructed, continue your advair and use your rescue inhaler 
frequently. ___ should see your PCP ___ 1 week, I have 
referred ___ to pulmonology, and ob/gyn as well to evaluate your 
endometriosis. 

Best of luck,

M. ___
 
Followup Instructions:
___